### PR TITLE
feat: `BitVec.{toFin, toInt, msb}_umod`

### PR DESCRIPTION
**Pull request by alexkeizer**
This PR adds a `toFin` and `msb` lemma for unsigned bitvector modulus. Similar to #6402, we don't provide a general `toInt_umod` lemmas, but instead choose to provide more specialized rewrites, with extra side-conditions.

### CODE REVIEW

File: src/Init/Data/BitVec/Lemmas.lean [hunk 1]
```diff
@@ -2570,6 +2577,10 @@ theorem umod_def {x y : BitVec n} :
   have h : x.toNat % y.toNat < 2 ^ n := Nat.lt_of_le_of_lt (Nat.mod_le _ _) x.isLt
   simp [umod, bv_toNat, Nat.mod_eq_of_lt h]
 
+@[simp]
+theorem toFin_umod {x y : BitVec w} :
+    (x % y).toFin = x.toFin % y.toFin := rfl
+
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Lemmas.lean:2583]: Super minor, but we typically keep toFin after toNat.

File: src/Init/Data/BitVec/Lemmas.lean [hunk 2]
```diff
@@ -2601,6 +2612,55 @@ theorem umod_eq_and {x y : BitVec 1} : x % y = x &&& (~~~y) := by
...
+              apply Nat.le_mul_of_pos_right
+              apply Nat.div_pos y_le_x
+              omega
+          have : x.toNat % y.toNat ≤ x.toNat - y.toNat := by
+            rw [Nat.mod_eq_sub]; omega
+          omega
+
+theorem toInt_umod_eq_bmod {x y : BitVec w} :
+    (x % y).toInt = (x.toNat % y.toNat : Int).bmod (2 ^ w) := by
+  simp [toInt_eq_toNat_bmod]
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Lemmas.lean:2658]: For BitVec, the `BitVec.toInt_*` theorems are expressed relatively consistently in terms of `bmod`. Hence, I would not be opposed to dropping the postfix.

**Comment by alexkeizer** [comment]
This should now be ready for review, but since I'm on holidays I'll keep it as a draft until I'm back and can respond to reviews timely

**Comment by alexkeizer** [comment]
awaiting-review

**Comment by alexkeizer** [comment]
changelog-library

File: src/Init/Data/BitVec/Lemmas.lean [hunk 3]
```diff
@@ -98,6 +99,12 @@ theorem ofFin_eq_ofNat : @BitVec.ofFin w (Fin.mk x lt) = BitVec.ofNat w x := by
 theorem eq_of_toNat_eq {n} : ∀ {x y : BitVec n}, x.toNat = y.toNat → x = y
   | ⟨_, _⟩, ⟨_, _⟩, rfl => rfl
 
+/-- Prove nonequality of bitvectors in terms of nat operations. -/
+theorem ne_iff_toNat_ne {n} {x y : BitVec n} : x.toNat ≠ y.toNat ↔ x ≠ y := by
```
Comment (kim-em) [inline src/Init/Data/BitVec/Lemmas.lean:103]:
```suggestion
theorem toNat_ne_iff_ne {n} {x y : BitVec n} : x.toNat ≠ y.toNat ↔ x ≠ y := by
```

**Comment by kim-em** [comment]
Otherwise looks good, and will merge soon.
